US07910585B2
In a 2 L, three necked, round-bottomed flask were charged 892 mL (0.45 mol) of 9-BBN (0.5M) and 100 mL of THF. After cooling to 0° C., 71 g (0.3 mol) of 2-allyl-3-fluoro-6-nitrobenzoic acid methyl ester in 150 mL of THF was added over 30 minutes and the mixture was stirred at room temperature for 5 hours. After cooling to 0° C., 700 mL of 1M NaOH aq was added into the reaction mixture, which was stirred for 30 minutes. To the mixture, 200 mL of hydrogen peroxide (35%) was added over 30 minutes then stirred at room temperature for 1 hours. The mixture was extracted twice with ethyl acetate. The combined organic layers were washed with water, a solution of sodium thiosulfate and brine, and was dried over sodium sulfate. The solvent was removed under reduced pressure to give 104 g of 3-fluoro-2-(3-hydroxy-propyl)-6-nitro-benzoic acid methyl ester as orange oil. The crude product was used for the next reaction.

reactant | 9-BBN | 0.45 mol, 0.5M, 892 mL | B1C2CCCC1CCC2 | C8H15B
reactant | 2-allyl-3-fluoro-6-nitrobenzoic acid methyl ester | 0.3 mol, 71 g | COC(C1=C(C(=CC=C1[N+](=O)[O-])F)CC=C)=O | C11H10FNO4
reactant | NaOH | 1M, 700 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 200 mL | OO | H2O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-fluoro-2-(3-hydroxy-propyl)-6-nitro-benzoic acid methyl ester | 104 g | COC(C1=C(C(=CC=C1[N+](=O)[O-])F)CCCO)=O | C11H12FNO5
